US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 30 mg, 0.070 mmol), (5-methyl-4H-1,2,4-triazol-3-yl)methanamine (11.70 mg, 0.104 mmol), HATU (34.4 mg, 0.090 mmol), and 4-methylmorpholine (28.1 mg, 0.278 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=11.3 min) to provide 2-hydroxy-N-((5-methyl-4H-1,2,4-triazol-3-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (12 mg, 0.022 mmol, 31.7% yield) as a single enantiomer. LCMS=526.4 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.36 Hz), 7.51-7.76 (7 H, m), 5.21 (1 H, s), 4.46-4.66 (2 H, m), 2.52 (3 H, s); HPLC peak RT=8.4 min (Method A).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | (5-methyl-4H-1,2,4-triazol-3-yl)methanamine | 0.104 mmol, 11.70 mg | CC=1NC(=NN1)CN | C4H8N4
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-hydroxy-N-((5-methyl-4H-1,2,4-triazol-3-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.022 mmol, 12 mg, 31.7% yield | OC(C(=O)NCC1=NN=C(N1)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C24H18F3N7O4
